* source 211SE
.EXTERNAL OUTPUT PORTLEFT-L
.EXTERNAL INPUT UB2 +300V
.EXTERNAL INPUT UB2 +306V
.EXTERNAL OUTPUT ~6.3V@75V TU2
.EXTERNAL INPUT J3
.EXTERNAL INPUT J4
.EXTERNAL INPUT LS
.EXTERNAL INPUT ~6.3V@75V
.EXTERNAL OUTPUT +300V
.EXTERNAL INPUT UB1 +1130V
.EXTERNAL OUTPUT ~6.3V/TU1
.EXTERNAL OUTPUT Heather_211
.EXTERNAL INPUT Heather_211 (+)
.EXTERNAL INPUT Heather_211 (-)
.EXTERNAL OUTPUT 1130V
.EXTERNAL INPUT Heather
.EXTERNAL INPUT Heater
X_TU1b         LS LS LS 6sn7ii
C_C7         N108324 N108328  330uF  
C_C4         N108112 GND_SIGNAL  150uF  
C_C8         GND_SIGNAL UB1 +1130V  100nF/2kV  
R_R1         GND_SIGNAL GND  100R/3W  
C_C1         N03545 N03607  150uF  
D_D11         N107534 N107648 D1N4007 
D_D12         N40257 HEATHER D1N4007 
C_C25         LS N98407  100nF/400V  
R_R28         HEATHER_211 N98447  47R/13W  
L_L1         N03545 UB1 +1130V  30H 62.61  
R_R24         LS N99055  1.21k/0.1 
R_R10         LS N58303  470R/2W  
C_C8         N108328 GND_SIGNAL  330uF  
R_R2         N108100 N108080  200k/3W  
D_D12         N107534 N107608 D1N4007 
C_C13         GND_SIGNAL N14952  220nF/250V  
R_R5         N108324 UB1 +1130V  200k/3W  
R_R27         N98443 HEATHER_211  47R/13W  
D_D5         N26311 N08115 D1N4007 
R_R18         LS N177181  825/1W/1 
R_R17         N177181 N177385  150R/1W/1 
R_R26         N80713 N67785  1k/2W  
C_C2         N03607 N03733  150uF  
R_R16         N102718 N98407  68k/2W  
R_R3         N108112 N108100  200k/3W  
R_R8         N107684 UB2 +306V  120k / 3W  
X_TU4         N58202 N59139 N59006 6sn7ii
C_C20         N99055 LS  220uF  
D_D10         N107608 N107458 D1N4007 
X_TU1a         N102718 N147496 N177385 6sn7ii
C_C4         GND_SIGNAL N03545  100nF/2kV  
R_R6         N108328 N108324  200k/3W  
D_D6         GND_SIGNAL N26311 D1N4007 
C_C21         N98459 LS  220uF  
C_C15         N107458 N107534  10000uF  
R_R4         GND_SIGNAL N108112  200k/3W  
C_C16         N58303 LS  100uF  
C_C14         N107684 GND_SIGNAL  220uF  
X_TU5         N59139 N80165 N59523 6sn7ii
C_C19         N98525 N98513  0.47u/1200V  
R_R9         GND_SIGNAL N107684  39k / 3W  
D_D1         N23368 N03545 D1N4007 
R_R7         GND_SIGNAL N108328  200k/3W  
C_C3         N03733 GND_SIGNAL  150uF  
R_R23         LS N67785  150k/2W  
L_L1         N108080 UB1 +1130V  30H 62.61  
C_C16         N107534 N107458  220nF/630V  
R_R15         N102718 N98407  18k/2W  
D_D7         GND_SIGNAL N26482 D1N4007 
R_R12         N59139 N59006  1k2/2W  
X_TU1         N58202 N58118 N58159 6sn7ii
R_R7         N14952 UB2 +300V  120k / 3W  
C_C9         GND_SIGNAL UB1 +1130V  100nF/2kV  
C_C17         N58159 N58880  0.47u/1200V  
R_R25         LS N98513  200k/2W  
C_C5         GND_SIGNAL N108080  100nF/2kV  
R_R20         N98455 N98463  1k/2W  
D_D5         N107466 N107446 D1N4007 
X_TU2         N58118 N79224 N58303 6sn7ii
C_C11         GND_SIGNAL N107446  100nF/250V  
D_D8         N26482 N08115 D1N4007 
R_R18         LS N59523  1k2/2W  
V_V2         N217084 N216969  
+SIN 0V 10V 50Hz 0 0 0
D_D2         GND_SIGNAL N23368 D1N4007 
X_TU3         N98541 N98509 GL211
R_R1         N03607 N03545  200k/3W  
D_D1         N108872 N108080 D1N4007 
C_C18         N163258 N99047  0.22u/600V  
D_D7         GND_SIGNAL N107466 D1N4007 
R_R11         LS N58880  390k/2W  
C_C26         N217201 N217443  10000uF  
X_TU7         N68649 N80713 GL211
C_C10         N107446 GND_SIGNAL  150uF  
C_C9         N08115 GND_SIGNAL  150uF  
C_C18         N59523 LS  100uF  
C_C5         UB1 +1130V N04610  330uF  
C_C13         GND_SIGNAL UB2 +306V  100nF/250V  
D_D3         GND_SIGNAL N108872 D1N4007 
C_C15         HEATER HEATHER  100nF  
R_R21         N162972 N99047  1Meg/1W  
D_D8         GND_SIGNAL N107514 D1N4007 
R_R2         N03733 N03607  200k/3W  
L_L2         N107446 UB2 +306V  10H 62.42  
L_L2         N08115 UB2 +300V  10H 62.42  
C_C17         N102718 N98463  0.47u/1200V  
R_R54         N170512 N99047  1k/2W  
C_C19         N59006 N67785  0.47u/1200V  
R_R26         N98509 N98513  1k/2W  
R_R25         N80165 N58880  1k/2W  
C_C6         N04610 N04614  330uF  
D_D4         GND_SIGNAL N108964 D1N4007 
D_D3         GND_SIGNAL N24544 D1N4007 
R_R23         N163258 N162972  22.1k/1W/1 
R_R24         N79224 N79142  1k/2W  
C_C10         GND_SIGNAL N08115  100nF/250V  
I_I1         N217201 N217443 DC 3.25A  
D_D6         N107514 N107446 D1N4007 
R_R19         LS N98463  390k/2W  
R_R19         N67351 N67248  1k/25W  
R_R22         N66947 PORTLEFT-L  47R/5W  
R_R3         GND_SIGNAL N03733  200k/3W  
R_R8         GND_SIGNAL N14952  39k / 3W  
C_C7         N04614 GND_SIGNAL  330uF  
D_D2         N108964 N108080 D1N4007 
D_D9         N40454 HEATHER D1N4007 
D_D4         N24544 N03545 D1N4007 
R_R21         PORTLEFT-L N67045  47R/5W  
C_C12         UB2 +306V GND_SIGNAL  330uF  
C_C11         UB2 +300V GND_SIGNAL  330uF  
R_R4         N04610 UB1 +1130V  200k/3W  
C_C21         N67248 LS  220uF  
X_TU2b         N98407 N170512 N98525 6sn7ii
C_C2         N108080 N108100  150uF  
R_R30         N98467 N98459  1k/25W  
D_D10         HEATER N40454 D1N4007 
C_C20         N67248 LS  220uF  
R_R5         N04614 N04610  200k/3W  
C_C1         GND_SIGNAL GND  2.2nF/1kV  
C_C6         UB1 +1130V N108324  330uF  
X_TU2a         N163258 N98455 N99055 6sn7ii
R_R9         N58118 N58159  470R/2W  
C_C3         N108100 N108112  150uF  
C_C24         LS N98407  100nF/400V  
D_D9         N107648 N107458 D1N4007 
D_D11         HEATER N40257 D1N4007 
R_R6         GND_SIGNAL N04614  200k/3W  
C_C14         HEATHER HEATER  4700uF  
R_R22         N162972 N98525  1.21k/0.1 
C_C12         GND_SIGNAL UB2 +300V  100nF/250V  
