* source AMP-INRUSH-CURRENT-LIMITER
X_U5         N29530 N29782 N30203 N30196 N30443 Relay_Spdt_Bhv_Bounce PARAMS:
+ T_make=20m
+ T_break=10m
+ T_bounce=5m
+ I_pull=25ma
+ I_drop=4ma
+ R_coil=1440
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
R_R23         N30196 N30203  100 TC=0,0 
D_D5         N29480 N29530 D1N4007 
D_D6         N29514 N29530 D1N4007 
D_D7         0 N29480 D1N4007 
D_D8         0 N29514 D1N4007 
X_U6         N29782 N29844 0 2N7000
Q_Q5         N30092 N29828 N29530 BC559B 
R_R24         N30273 N30203  270k TC=0,0 
R_R25         N29480 N30273  270k TC=0,0 
C_C3         N30277 N29480  220n  TC=0,0 
R_R26         N30277 N30203  220 TC=0,0 
V_V5         N30203 N29514  
+SIN 0V 325V 50Hz 0 0 0
R_R27         0 N29530  3.9k TC=0,0 
C_C4         0 N29530  100u  TC=0,0 
C_C5         0 N29844  22u  TC=0,0 
R_R28         N29844 N29530  100k TC=0,0 
R_R29         N29844 N30092  220 TC=0,0 
D_D9         0 N29844 BZX84C12/ZTX 
D_D10         N29844 N29530 D1N4007 
R_R30         N29782 N29828  22k TC=0,0 
D_D11         N29782 N29530 D1N4007 
R_R31         N30443 0  47k TC=0,0 
