* source AMP-PROTECTION
R_R1         N15689 N14768  22k TC=0,0 
R_R2         N15002 N14772  22k TC=0,0 
V_V1         N14677 0 50Vdc
V_V2         N14991 0  
+SIN 0V 35V 50Hz 0 0 0
R_R3         0 N14576  10k TC=0,0 
Q_Q1         N14693 N25522 0 MPSA42
R_R4         N14693 N14689  100 TC=0,0 
R_R5         N14689 N14677  100k TC=0,0 
C_C1         0 N14689  470n  TC=0,0 
V_V3         0 N14996  
+SIN 0V 35V 50Hz 0 0 0
Q_Q2         N150581 N14689 0 MPSA42
C_C2         0 N15218  22u  TC=0,0 
R_R6         N15218 N14677  220k TC=0,0 
R_R7         N150581 N15218  4.7k TC=0,0 
Q_Q3         N30179 N15218 N15575 MPSA42
D_D3         N15575 N15533 D1N4004 
D_D4         0 N15533 BZX84C15/ZTX 
R_R8         N15571 N14677  6.8k TC=0,0 
R_R9         N15533 N14677  47k TC=0,0 
X_U1         N14991 N15689 Sw_tOpen PARAMS: tOpen=4 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U2         N14996 N15002 Sw_tOpen PARAMS: tOpen=4 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R10         N15890 N36144  1620 TC=0,0 
C_C3         0 N17995  47u  TC=0,0 
R_R15         N18304 N17995  47k TC=0,0 
X_U4         N18297 N18304 Sw_tClose PARAMS: tClose=10 ttran=1u Rclosed=0.01
+  Ropen=1Meg
V_V6         N18297 0 2Vdc
Q_Q9         N25043 0 N17995 MPSA42
Q_Q10         0 N25043 N25047 MPSA92
Q_Q11         N25047 N17995 0 MPSA42
R_R20         0 N17995  22k TC=0,0 
R_R21         N25047 N15218  10 TC=0,0 
R_R22         N25522 N14576  100 TC=0,0 
V_V7         N29447 0 1V
R_R24         0 N29447  10k TC=0,0 
R_R25         N30179 N15571  22k TC=0,0 
D_D5         N15575 N15218 BZT55C5V6
D_D6         N14768 N14576 D1N914 
D_D7         N14772 N14576 D1N914 
X_D8         N15890 0 LED PARAMS: IS=2.0298e-14 RS=2  BV=5 IBV=10e-6         
X_D9         N15890 0 LED PARAMS: IS=2.0298e-14 RS=2  BV=5 IBV=10e-6         
Q_Q13         N36144 N15571 N14677 Q2N5401C 
.PARAM  rmax=0.1
