* source HV-POWER-SUPPLY
Q_Q1         N15077 N15092 0 MJE13002 
X_Q2         N15077 N15073 N15112 awbmmbt3904 PARAMS:                          
+                   
X_M1         N15172 N15077 N15059 IRF840
D_D1         N15112 N15077 BZX84C15/ZTX 
X_U1         N15041 N14764 N14756 0 N15096 TL321/5_1/TI
V_V1         N15172 0 DC 350V AC 1Vac 
C_C1         0 N15172  680u  TC=0,0 
C_C2         0 N15172  100n  TC=0,0 
R_R1         N14756 N15172  100k TC=0,0 
X_R2         0 N14764 N14764 POT PARAMS: SET=0.1 VALUE=250k
D_D2         0 N14756 BZX84C15/ZTX 
C_C3         0 N14756  15uF  TC=0,0 
C_C4         0 N14756  100n  TC=0,0 
R_R3         N14764 N14756  232k TC=0,0 
R_R4         N15092 N15096  100k TC=0,0 
R_R5         N15077 N15172  100k TC=0,0 
R_R6         N15112 N15059  32 TC=0,0 
R_R7         N15059 N15073  1k TC=0,0 
R_R8         N15041 N15112  402k TC=0,0 
R_R9         0 N15041  10k TC=0,0 
C_C6         0 N15112  100n  TC=0,0 
C_C5         0 N15112  470u  TC=0,0 
R_R11         0 N15112  100k TC=0,0 
R_R12         0 N15112  10k TC=0,0 
