* source HV-POWER-SUPPLY
V_V1         N15885 0 DC 350V AC 1Vac 
C_C1         0 N15885  680u  TC=0,0 
C_C2         0 N15885  100n  TC=0,0 
R_R21         N33628 N33632  1k TC=0,0 
X_M1         N15885 N34194 N34183 IRF840
D_D1         N34183 N34194 BZX84C15/ZTX 
R_R23         N34227 N34194  3.9k TC=0,0 
R_R24         N34207 N34194  220 TC=0,0 
C_C3         N34207 N34227  33u  TC=0,0 
I_I1         N33632 N35161 DC 0.58mAdc  
R_R25         N34855 0  348k TC=0,0 
R_R26         N35161 N34855  750 TC=0,0 
R_R27         N34586 N34855  100 TC=0,0 
R_R28         N33747 N34183  22 TC=0,0 
D_D9         N34855 N33747 MBR150RL
D_D10         N33747 N34855 MBR150RL
X_U3         N34586 N33747 N33632 N33747 N34227 TL321/5_1/TI
X_M3         N15885 N33628 N33632 BSP135_L1 PARAMS:    
D_D13         N33747 N33628 BZX84C5V6/ZTX 
C_C5         0 N37286  1u  TC=0,0 
R_R29         N33747 N37286  2.2 TC=0,0 
R_R22         N33747 0  10k TC=0,0 
C_C6         0 N33747  200u  TC=0,0 
