* source INRUSH-CURRENT-LIMITER
D_D1         N14613 N14592 D1N4007 
D_D2         N14498 N14613 D1N4007 
D_D3         N14588 N14592 D1N4007 
D_D4         N14498 N14588 D1N4007 
C_C1         N14498 N14552  100uF  TC=0,0 
R_R1         N14498 N14592  390 TC=0,0 
R_R2         N14552 N14592  910k TC=0,0 
R_R3         N14498 N14552  69k TC=0,0 
V_V1         N14613 N14931  AC 220V
+SIN 0V 250V 50 0 0 0
R_R4         N14931 N14588  100 TC=0,0 
R_R5         0 N14931  100k TC=0,0 
X_X5         N14592 N14552 N14498 MCR22-8
