* source PRE-REGULATOR
Q_Q1         N00166 N00348 N00246 QBD135/PLP 
R_R1         N00348 N00166  10k TC=0,0 
R_R2         0 N00348  10k TC=0,0 
V_V1         N00166 0 21.2Vdc
R_R3         0 N00246  100 TC=0,0 
Q_Q2         N00783 N00801 N00826 QBD136/PLP 
R_R4         N00826 0  100 TC=0,0 
R_R5         N00783 N00801  10k TC=0,0 
R_R6         N00801 0  10k TC=0,0 
V_V2         0 N00783 21.2Vdc
