* source PRE-REG-TL431
V_V1         N14451 0  AC 0V
+SIN 22V 2V 100Hz 0 0 0
R_R1         N17806 N14451  2.4k TC=0,0 
Q_Q1         N14451 N17806 N14555 QBD135-16/PLP 
I_I1         N14555 0 DC 120mAdc  
V_V2         N15026 0  AC 0V
+SIN -22V 2V 100Hz 0 0 0
I_I2         N15070 0 DC -120mAdc  
X_U1         N21291 N15070 N21295 TL431/TI
C_C1         0 N17806  100n  TC=0,0 
X_U2         N17875 0 N17806 TL431/TI
R_R5         N17875 0  10k TC=0,0 
R_R6         N14555 N17875  56k TC=0,0 
R_R3         N21291 N15070  10k TC=0,0 
R_R66         0 N21291  56k TC=0,0 
R_R2         N20462 N15026  2.4k TC=0,0 
Q_Q5         N15026 N20462 N15070 QBD136/PLP 
R_R67         N21309 N21295  33 TC=0,0 
D_D1         0 N21309 D1N4148_1 
X_Q6         N20462 N21295 N21390 BC857/INF
R_R68         0 N21390  33 TC=0,0 
