* source PHONO-PRE-MM-ECC88-ECC808
V_V1         N14866 0 250Vdc
V_V2         N14659 0  AC 0.001V
+SIN 0V 0.001V 1kHz 0 0 0
R_R2         0 N18951  49k TC=0,0 
R_R3         0 N14691  162 TC=0,0 
R_R4         N17639 N17664  20k TC=0,0 
R_R6         N14866 N14518  511 TC=0,0 
X_VL1         N17639 N18951 N14691 6DJ8
R_R10         0 N16488  1meg TC=0,0 
R_R11         N14518 N17664  33k TC=0,0 
X_VL2         N17664 N17639 N18472 6DJ8
R_R12         0 N18472  20k TC=0,0 
R_R13         N18468 N18472  31.5k TC=0,0 
C_C2         0 N18468  23n  TC=0,0 
R_R14         N18519 N18468  4.641k TC=0,0 
C_C3         0 N18519  68n  TC=0,0 
X_VL3         N18430 N18163 N18177 ECC808
X_VL4         N18412 N18430 N18338 ECC808
C_C4         N18163 N18468  1u  TC=0,0 
R_R15         N18144 N18177  162 TC=0,0 
R_R16         0 N18144  1k TC=0,0 
R_R17         N18144 N18163  1meg TC=0,0 
R_R18         N18430 N18412  221k TC=0,0 
R_R19         0 N18338  221k TC=0,0 
C_C5         N16488 N18338  3.3u  TC=0,0 
R_R20         N14518 N18412  1k TC=0,0 
E_E1         N18951 0 LAPLACE { V(N14659, 0) } = {
+  ((1+3180u*S)*(1+75u*S))/((1+318u*S)*(1+3.18u*S)) }
