* source PREAMP-6SN7
V_V1         N14518 0 300VDC
V_V2         N14657 0  AC 1V
+SIN 0V 0.5V 1kHz 0 0 0
R_R1         N14668 N14687  47k TC=0,0 
R_R2         0 N14668  1meg TC=0,0 
R_R3         0 N14691  1k TC=0,0 
R_R4         N14843 N14518  23.5k TC=0,0 
R_R5         0 N14705  23.5k TC=0,0 
R_R7         0 N14726  1meg TC=0,0 
C_C1         N14705 N14726  100nF  TC=0,0 
C_C2         N14657 N14668  3.3uF  TC=0,0 
R_R8         N14687 N14726  100k TC=0,0 
X_VL3         N14843 N16352 N14691 6SN7
X_VL4         N14518 N16286 N14705 6SN7
R_R9         N14843 N16286  100 TC=0,0 
R_R10         N14687 N16352  100 TC=0,0 
