* source 6SN7PREV2
R_R1         N00358 N00346  22k TC=0,0 
R_R3         0 N00386  22k TC=0,0 
V_V1         N00346 0 300Vdc
C_C1         N00386 N00400  2.2u  TC=0,0 
C_C2         N00458 N00437  22n  TC=0,0 
R_R4         0 N00437  1meg TC=0,0 
R_R5         0 N00400  100k TC=0,0 
V_V2         N00458 0  AC 0V
+SIN 0V 0.5V 1k 0 0 0
R_R6         N00826 N00437  100k TC=0,0 
R_R7         N00400 N00826  470k TC=0,0 
X_D1         N01054 0 LED PARAMS: IS=3.7602e-29 RS=2  BV=5 IBV=10e-6         
X_VL1         N00346 N00358 N00386 6SN7
X_VL2         N00358 N00826 N01054 6SN7
