* source GYRATOR-FILTER-1
V_V1         N14475 0  AC 1V
+SIN 16V 1V 10kHz 0 0 0
C_C1         0 N14475  4.7u  TC=0,0 
C_C2         0 N14515  4.7uF  TC=0,0 
Q_Q1         N14475 N14515 N14585 BC850C 
R_R1         N14475 N14515  22k TC=0,0 
I_I1         N14585 0 DC 30mAdc  
